US04870157
Preparation of Methyl 2,3,4,6-Tetra-O-(3,5-di-tert-butyl-4-hydroxybenzoyl)-α-D-glucopyranoside
A mixture of 0.97 g (0.005 moles) methyl α-D-glucoside and 7.10 g (0.025 moles) 3,5-di-tert-butyl-4hydroxybenzoyl chloride in 50 ml dry pyridine was stirred and heated under a nitrogen atmosphere at 65°-70° C. for 21 hours. After a work-up in the same manner as that described in Example 1, 0.75 g (14% yield) of a light yellow solid, mp 163°-166° C., was isolated. This product was identified as the above-titled compound by IR and NMR analysis and by elemental analysis: Anal. Calc. for C67H94O14 : C, 71.63; H, 8.43.

reactant | methyl α-D-glucoside | 0.005 moles, 0.97 g | CO[C@@H]1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O)O)O | C7H14O6
reactant | 3,5-di-tert-butyl-4hydroxybenzoyl chloride | 0.025 moles, 7.10 g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 2,3,4,6-Tetra-O-(3,5-di-tert-butyl-4-hydroxybenzoyl)-α-D-glucopyranoside | 0.75 g, 14% yield | C(C)(C)(C)C=1C=C(C(=O)O[C@H]2[C@@H](OC)O[C@@H]([C@H]([C@@H]2OC(C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)=O)OC(C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)=O)COC(C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)=O)C=C(C1O)C(C)(C)C | C67H94O14
